US04479885
Using 1-(p-fluorophenyl)-4-(trans-4'-n-pentylcyclohexyl)-1,3-butadiene and fumaronitrile, 3-(p-fluorophenyl)-6-(trans-4'-n-pentylcyclohexyl)phthalonitrile was obtained by the same method as in Example 1. m.p. was 102.5° C.

reactant | 1-(p-fluorophenyl)-4-(trans-4'-n-pentylcyclohexyl)-1,3-butadiene | FC1=CC=C(C=C1)C=CC=C[C@@H]1CC[C@H](CC1)CCCCC | C21H29F
reactant | fumaronitrile | C(\C=C\C#N)#N | C4H2N2
product | 3-(p-fluorophenyl)-6-(trans-4'-n-pentylcyclohexyl)phthalonitrile | FC1=CC=C(C=C1)C1=C(C(C#N)=C(C=C1)[C@@H]1CC[C@H](CC1)CCCCC)C#N | C25H27FN2
